### PR TITLE
[Merged by Bors] - feat: Ruzsa covering for sets

### PR DESCRIPTION
**Pull request by YaelDillies**
Add a version covering for `Set α` and `Nat.card`.

From PFR

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Additive/RuzsaCovering.lean [hunk 1]
```diff
@@ -54,3 +55,23 @@ theorem exists_subset_mul_div (ht : t.Nonempty) :
...
+lemma exists_subset_mul_div (hs : s.Finite) (ht' : t.Finite) (ht : t.Nonempty) :
+    ∃ u : Set α, Nat.card u * Nat.card t ≤ Nat.card (s * t) ∧ s ⊆ u * t / t ∧ u.Finite := by
+  lift s to Finset α using hs
+  lift t to Finset α using ht'
+  classical
+  obtain ⟨u, hu, hsut⟩ := Finset.exists_subset_mul_div s ht
+  refine ⟨u, ?_⟩
+  -- `norm_cast` would find these automatically, but breaks `to_additive` when it does so
+  rw [←Finset.coe_mul, ←Finset.coe_mul, ←Finset.coe_div]
+  norm_cast
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Additive/RuzsaCovering.lean:74]: @fpvandoorn, any ideas? It looks like `norm_cast` is generating auxiliary lemmas, but the `to_additive` tag isn't being transferred to them.

**Review by eric-wieser — APPROVED** [review]
I'd prefer to have an issue to reference in the comment about `to_additive` before merging; perhaps Floris knows of one that already exists.

File: Mathlib/Combinatorics/Additive/RuzsaCovering.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/RuzsaCovering.lean]: This is not `norm_cast` but `lift`, it seems.

**Comment by YaelDillies** [comment]
I guess we can reference #1074 ?

**Comment by sgouezel** [comment]
If we agree that we want to use `Nat.card`, could you also remove the simp attribute on `Nat.card_coe_set_eq`?

**Comment by sgouezel** [comment]
bors r+
Thanks!
